SkyWater SKY130 native NMOS operating-point oracle
.lib @PDK@/libs.tech/ngspice/sky130.lib.spice tt
.option wnflag=1
Vd_ref d_ref 0 1.8
Vg_ref g_ref 0 1.8
Xref d_ref g_ref 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15 nf=1 m=1
.temp 27
.op
.end
